US08067408B2
3-{[({3′-[((3S)-4-{[(1,1-Dimethylethyl)oxy]carbonyl}-3-methyl-1-piperazinyl)methyl]-6-fluoro-3-biphenylyl}methyl)(methyl)amino]carbonyl}benzoic Acid
To a solution of 1,1-dimethylethyl (2S)-4-[(2′-fluoro-5′-{[methyl({3-[(methyloxy)carbonyl]phenyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate (0.215 g, 0.365 mmol) in MeOH/H2O (1.0/0.5 mL) was added LiOH.H2O (0.077 g, 1.83 mmol). The mixture was heated with a microwave at 80° C. for 30 min. Then it was acidified with HOAc. This mixture was extracted with DCM which was dried over Na2SO4, filtered, concentrated and purified using a Gilson HPLC to afford the title compound 0.0639 g (30%). LC-MS m/z 576 (M+H)+.

reactant | 1,1-dimethylethyl (2S)-4-[(2′-fluoro-5′-{[methyl({3-[(methyloxy)carbonyl]phenyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate | 0.365 mmol, 0.215 g | FC1=C(C=C(C=C1)CN(C(=O)C1=CC(=CC=C1)C(=O)OC)C)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C34H40FN3O5
reactant | LiOH.H2O | 1.83 mmol, 0.077 g | O[Li].O
reactant | HOAc | CC(=O)O | C2H4O2
solvent | MeOH H2O | 0.5 mL | CO.O
product | 3-{[({3′-[((3S)-4-{[(1,1-Dimethylethyl)oxy]carbonyl}-3-methyl-1-piperazinyl)methyl]-6-fluoro-3-biphenylyl}methyl)(methyl)amino]carbonyl}benzoic Acid | 0.0639 g, 30% | CC(C)(C)OC(=O)N1[C@H](CN(CC1)CC=1C=C(C=CC1)C1=CC(=CC=C1F)CN(C(=O)C=1C=C(C(=O)O)C=CC1)C)C | C33H38FN3O5
